US04454320
2-Methoxy-3-bromothiophene is reacted with n-butyl lithium in ether at 0° to 5° C., following the method of Sornay et al. [Bull. soc. chim. Fr. (3), p. 999 (1971)]. The organolithium reagent is cooled to -10° to -20° C. and reacted with an equivalent of alloxan in tetrahydrofuran. The reaction mixture is allowed to warm to room temperature and 5-hydroxy-5-(2-methoxy-3-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione isolated according to the method of Example 5.

reactant | 2-Methoxy-3-bromothiophene | COC=1SC=CC1Br | C5H5BrOS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-hydroxy-5-(2-methoxy-3-furyl)-2,4,6(1H,3H,5H)pyrimidinetrione | OC1(C(NC(NC1=O)=O)=O)C1=C(OC=C1)OC | C9H8N2O6
